US04485114
4-[[1-Ethoxy-2-oxo-2-[4-[3-(trifluoromethyl)phenoxy]phenyl]ethyl]amino]benzoic acid
A mixture of 5.62 g of 2,2-dihydroxy-4'-(α,α,α-trifluoro-m-tolyloxy)acetophenone, 2.47 g of p-aminobenzoic acid and 100 ml of ethanol was refluxed for 30 minutes and then 50 ml of toluene were added. The mixture was evaporated to dryness and the refluxing with ethanol and toluene repeated twice. Then the ethanol was evaporated giving a residue which was dissolved in 150 ml of ether, 75 ml of petroleum ether was added and the mixture cooled to 0° C., giving the desired product as an off-white powder, mp 109°-122° C. (dec.).

reactant | 2,2-dihydroxy-4'-(α,α,α-trifluoro-m-tolyloxy)acetophenone | 5.62 g | OC(C(=O)C1=CC=C(C=C1)OC=1C=C(C=CC1)C(F)(F)F)O | C15H11F3O4
reactant | p-aminobenzoic acid | 2.47 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | 150 ml | CCOCC | C4H10O
product | 4-[[1-Ethoxy-2-oxo-2-[4-[3-(trifluoromethyl)phenoxy]phenyl]ethyl]amino]benzoic acid | C(C)OC(C(C1=CC=C(C=C1)OC1=CC(=CC=C1)C(F)(F)F)=O)NC1=CC=C(C(=O)O)C=C1 | C24H20F3NO5
